US07132419B2
4-Methoxy-9-methylsulfanyl-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide
A mixture of 9-chloro-4-methoxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide (85 mg) and sodium thiomethoxide (43 mg) in N,N-dimethylformamide (1 mL) was heated to 120° C. for 6 hours and 60° C. for 16 hours. The reaction mixture was then cooled, diluted with ethyl acetate, washed with water, dried (MgSO4) and the solvent removed in vacuo to yield a yellow solid which was purified using flash chromatography to yield the desired title compound (37 mg).

reactant | 9-chloro-4-methoxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | 85 mg | CN(CCNC(=O)C1=CC(=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4OC)Cl)C | C22H21ClN4O2
reactant | sodium thiomethoxide | 43 mg | C[S-].[Na+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Methoxy-9-methylsulfanyl-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | 37 mg | CN(CCNC(=O)C1=CC(=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4OC)SC)C | C23H24N4O2S
